US03946027
2-Methyl-4-(3'-methoxyphenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester. ##SPC37##
27.2 g of 3-methoxybenzaldehyde, 38 g of oxalacetic acid diethyl ester and 26 g of β-aminocrotonic acid ethyl ester in 120 ccs of ethanol are heated to the boil overnight and evaporated in vacuo. Oil (orange).

reactant | 3-methoxybenzaldehyde | 27.2 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | oxalacetic acid diethyl ester | 38 g | C(C)OC(CC(=O)C(=O)OCC)=O | C8H12O5
reactant | β-aminocrotonic acid ethyl ester | 26 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-4-(3'-methoxyphenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)OC)C(=O)OCC)C(=O)OCC)C | C22H27NO7
